US04020171
Formaldehyde dimethyl mercaptal S-oxide (1.010 g) was dissolved in 15 ml. of tetrahydrofuran, and at -10° C., 6.0 ml of an n-hexane solution (1.4 millimols/milliliter) of n-butyl lithium was added. The mixture was stirred at -10° C. for 1 hour, and then 1.030 g of 2-benzyl-1,3-dibromopropane was added. The mixture was stirred for 100 minutes at -10° C., and then for 3 hours at room temperature. Methylene chloride (100 ml) and 30 ml. of water were added and the organic phase was separated. The aqueous phase was extracted twice with 50 ml. of methylene chloride each time. The extract and the organic phase were combined, dried with anhydrous sodium sulfate, and concentrated at reduced pressure. The residue was separated by column chromatography (silica gel, eluted with methylene chloride and ethyl acetate) to afford 686 mg of 3-benzylcyclobutanone dimethyl mercaptal S-oxide as a light yellow oil in a yield of 77%.

reactant | Formaldehyde dimethyl mercaptal S-oxide | 1.010 g | CSCS(C)=O | C3H8OS2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-benzyl-1,3-dibromopropane | 1.030 g | C(C1=CC=CC=C1)C(CBr)CBr | C10H12Br2
solvent | water | O | H2O
solvent | Methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | n-hexane | 1.4 millimols/milliliter, 6.0 ml | CCCCCC | C6H14
product | 3-benzylcyclobutanone dimethyl mercaptal S-oxide | 686 mg, yield of 77% | CSC1(CC(C1)CC1=CC=CC=C1)S(C)=O | C13H18OS2
